* Schematics Netlist *



R_Rm         IN OUT  1k  
V_Vo         $N_0001 0 2V
D_D5         $N_0002 OUT D1N4002 
D_D6         $N_0002 0 D1N4002 
D_D7         OUT $N_0003 D1N4002 
D_D8         0 $N_0003 D1N4002 
R_R3         OUT VoutAM  1k  
C_C1         0 VoutAM  2.2n  
L_L1         VoutAM 0  46uH  
D_D11         VoutOpAmp VoutDEM D1N4148 
R_R9         0 VoutDEM  300k  
R_R7         0 $N_0004  1k  
E_U3         VoutOpAmp 0 VALUE {LIMIT(V(VoutAM,$N_0004)*1E6,-15V,+15V)}
C_C4         0 VoutDEM  200p  
V_Vm         IN $N_0001  
+SIN 0 1 5k 0 0 0
R_R5         $N_0004 VoutOpAmp  0.5k  
R_Rp         $N_0002 $N_0005  1k  
V_Vp         $N_0005 $N_0003  
+SIN 0 10 50k 0 0 0
